US05508408
Example 18: 4-[3-(7-benzyloxy-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid
Analogously to Example 3, the title compound is prepared starting from 3-(7-benzyloxy-2-quinolinylmethoxy)aniline and 2,2-diethylsuccinic acid. Slightly yellowish crystals of m.p. 89°-95° are obtained; IR (KBr): 3325, 2966, 1689, 1599, 1545, 1512, 1492, 1436, 1380, 1208, 1157, 1024, 842, 775, 695 cm-1.

reactant | 3-(7-benzyloxy-2-quinolinylmethoxy)aniline | C(C1=CC=CC=C1)OC1=CC=C2C=CC(=NC2=C1)COC=1C=C(N)C=CC1 | C23H20N2O2
reactant | 2,2-diethylsuccinic acid | C(C)C(C(=O)O)(CC(=O)O)CC | C8H14O4
reactant | KBr | [K+].[Br-]
product | 4-[3-(7-benzyloxy-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid | C(C1=CC=CC=C1)OC1=CC=C2C=CC(=NC2=C1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O | C31H32N2O5
